US05869485
10 g of phenacyl bromide and 11 g of 3-benzyloxyaniline are stirred at 60° C. for 2 h in 100 ml of ethanol in the presence of 11.7 g of powdered Na2CO3. The mixture is then cooled and concentrated in an RE. The residue is partitioned between water and methylene chloride and the aqueous phase is extracted twice with methylene chloride. The combined organic phases are dried over Na2SO4 and concentrated. The residue is slurried with ether and the crystals are filtered off, 2'-(3-benzyloxyphenylamino)acetophenone being obtained.

reactant | phenacyl bromide | 10 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | 3-benzyloxyaniline | 11 g | C(C1=CC=CC=C1)OC=1C=C(N)C=CC1 | C13H13NO
reactant | Na2CO3 | 11.7 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2'-(3-benzyloxyphenylamino)acetophenone | C(C1=CC=CC=C1)OC=1C=C(C=CC1)NC1=C(C=CC=C1)C(C)=O | C21H19NO2
